US06423689B1
(S)-2-Amino-3-(4-nitrophenyl)-N-tert-butylpropionamide
A solution of the product from Example AJ ((S)-[2-(4-nitrophenyl)-1-tert-butylcarbamoyl-ethyl]-carbamic acid tert-butyl ester) (2, 2.0 g, 5.25 mmol) was stirred in a solution of TFA/CH2Cl2 (15 mL/15 mL) for 30 minutes and concentrated to dryness. This crude reaction product was redissolved in CH2Cl2 (50 mL) then washed with NaHCO3 (aq) and brine. The EtOAc solution was further dried over NaHCO3 and concentrated to dryness to yield the title compound (1.34 g).

reactant | (S)-[2-(4-nitrophenyl)-1-tert-butylcarbamoyl-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](CC1=CC=C(C=C1)[N+](=O)[O-])C(NC(C)(C)C)=O)=O | C18H27N3O5
reactant | TFA CH2Cl2 | 15 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-Amino-3-(4-nitrophenyl)-N-tert-butylpropionamide | 1.34 g | N[C@H](C(=O)NC(C)(C)C)CC1=CC=C(C=C1)[N+](=O)[O-] | C13H19N3O3
